*
.SUBCKT BDL31 1 2 3
* housing parasitics
LBlead 2 22 1.63E-09
LE 3 333 3.77E-09
LC 1 11 4.1E-10
LBbond 22 222 2.5E-09
CBCG 222 11 1.76E-13
CBEG 222 333 8.6E-14
CCEG 11 333 1.76E-13
Q1 11 222 333 BDL31
.MODEL BDL31 NPN(
+ IS = 9.791E-13
+ NF = 0.9879
+ ISE = 1.549E-14
+ NE = 1.461
+ BF = 399.9
+ IKF = 5.58
+ VAF = 54.99
+ NR = 0.9914
+ ISC = 3.649E-14
+ NC = 1.486
+ BR = 101
+ IKR = 0.39
+ VAR = 11.9
+ RB = 33.6
+ IRB = 0.0003203
+ RBM = 1.18
+ RE = 0.0917
+ RC = 0.02
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 4.493E-10
+ VJE = 0.9469
+ MJE = 0.4101
+ TF = 6E-10
+ XTF = 59
+ VTF = 3
+ ITF = 11
+ PTF = 0
+ CJC = 2.441E-10
+ VJC = 0.3643
+ MJC = 0.32
+ XCJC = 1
+ TR = 1.5E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78)
.ENDS
*